US04443248
Preparation of Ethyl 2-[5-(2-Chloro-4-trifluoromethylphenoxy)-2-methylthiophenoxy]propionate
5-(2-Chloro-4-trifluoromethylphenoxy)-2-(methylthio)phenol (9.5 grams; 0.0296 mole), potassium carbonate (16.56 grams; 0.12 mole) ethyl 2-bromopropionate (7.79 ml; 0.06 mole) and dimethylsulfoxide (150 ml) were charged into a glass reaction vessel equipped with a mechanical stirrer. The mixture was stirred at room temperature for a period of about 7 hours. After this time the reaction mixture poured into 600 ml of water. The resulting mixture was then extracted three times with 100 ml portions of methylene chloride. The extracts were combined and washed with water. The washed extract was then dried using a phase separator. The dried solution was stripped of solvent under aspirator pressure leaving a clear oil as the residue. The residue was chromatographed through a clay column using hexane and ethyl acetate as the eluant. Fourteen fractions were collected and fraction 12 was stripped of solvents to yield the desired product ethyl 2-[5-(2-chloro-4-trifluoromethylphenoxy)-2-methylthiophenoxy]propionate as a white crystalline solid melting at 70° to 71° C.

reactant | 5-(2-Chloro-4-trifluoromethylphenoxy)-2-(methylthio)phenol | 0.0296 mole, 9.5 grams | ClC1=C(OC=2C=CC(=C(C2)O)SC)C=CC(=C1)C(F)(F)F | C14H10ClF3O2S
reactant | potassium carbonate | 0.12 mole, 16.56 grams | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-bromopropionate | 0.06 mole, 7.79 ml | BrC(C(=O)OCC)C | C5H9BrO2
reactant | dimethylsulfoxide | 150 ml | CS(=O)C | C2H6OS
solvent | water | 600 ml | O | H2O
product | ethyl 2-[5-(2-chloro-4-trifluoromethylphenoxy)-2-methylthiophenoxy]propionate | ClC1=C(OC=2C=CC(=C(SC(C(=O)OCC)C)C2)C)C=CC(=C1)C(F)(F)F | C19H18ClF3O3S
